US04390618
205 g (0.4 mol) of 1-hydroxy-4-ethoxycarbonylmethyloxy-N-(3-n-dodecyloxypropyl)2-naphthamide was dispersed in 600 ml of methanol at the room temperature. A solution containing 105 g of potassium hydroxide in 250 ml of methanol was added slowly with stirring, followed by stirring for 1 hour. After being neutralized by adding concentrated hydrochloric acid, the precipitated crystals were filtered off and dried to obtain 184 g (94% yield) of 1-hydroxy-4-carboxymethyloxy-N-(3-n-dodecyloxypropyl)2-naphthamide. Melting point: 150° C.

reactant | 1-hydroxy-4-ethoxycarbonylmethyloxy-N-(3-n-dodecyloxypropyl)2-naphthamide | 0.4 mol, 205 g | OC1=C(C=C(C2=CC=CC=C12)OCC(=O)OCC)C(=O)NCCCOCCCCCCCCCCCC | C30H45NO6
reactant | potassium hydroxide | 105 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 600 ml | CO | CH4O
solvent | methanol | 250 ml | CO | CH4O
product | 1-hydroxy-4-carboxymethyloxy-N-(3-n-dodecyloxypropyl)2-naphthamide | 184 g, 94% yield | OC1=C(C=C(C2=CC=CC=C12)OCC(=O)O)C(=O)NCCCOCCCCCCCCCCCC | C28H41NO6
